US07157464B2
Synthesis of 1-[4-(4-Chloro-3-methoxyphenyl)-piperazin-1-yl]-2-(4-bromo-3-phenyl-5-trifluoromethyl-pyrazol-1-yl)-ethanone
Protocol T was followed using 4-Bromo-3-phenyl-5-trifluoromethyl-1H-pyrazole, K2CO3, 2-Chloro-1-[4-(4-chloro-3-methoxy-phenyl)-piperazin-1-yl]-ethanone and DMF. Column chromatography using a solvent mixture (hexane/ethyl acetate=1/1, Rf=0.51) afforded the title compound as a white solid. 1H NMR (400 MHz, CDCl3): 7.42–7.52 (m, 5H), 7.18–7.22 (d, 1H), 6.38–6.42 (dd, 1H), 6.46–6.48 (d, 1H), 4.94 (s, 2H), 3.88 (s, 3H), 3.5–3.78 (m, 4H), 3.18 (s, 4H).

reactant | 4-Bromo-3-phenyl-5-trifluoromethyl-1H-pyrazole | BrC=1C(=NNC1C(F)(F)F)C1=CC=CC=C1 | C10H6BrF3N2
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-Chloro-1-[4-(4-chloro-3-methoxy-phenyl)-piperazin-1-yl]-ethanone | ClCC(=O)N1CCN(CC1)C1=CC(=C(C=C1)Cl)OC | C13H16Cl2N2O2
reactant | DMF | CN(C)C=O | C3H7NO
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 1-[4-(4-Chloro-3-methoxyphenyl)-piperazin-1-yl]-2-(4-bromo-3-phenyl-5-trifluoromethyl-pyrazol-1-yl)-ethanone | ClC1=C(C=C(C=C1)N1CCN(CC1)C(CN1N=C(C(=C1C(F)(F)F)Br)C1=CC=CC=C1)=O)OC | C23H21BrClF3N4O2
